US07871998B2
[4-((2R,3R)-1-(4-Chlorophenyl)-3-{[2-(4-chlorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid
tert-Butyl {4-[(2R,3R)-1-(4-chlorophenyl)-3-({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetate (1.69 g, 2.57 mmol) was dissolved in formic acid (25 ml) and stirred for two hours. The mixture was concentrated under reduced pressure (temperature <30° C.) and the crude oil was purified by flash-chromatography (hexane:acetone:formic acid 60:40:0.1) to afford 1.08 g (81%) of the title compound as a pale yellow solid. 1H-NMR (CDCl3, 200 MHz): δ 4.0-4.2 (m, 3H), 4.7 (s, 2H), 4.9 (d, 1H), 6.9 (d, 2H), 7.2-7.4 (m, 6H), 7.5 (d, 2H), 7.9 (d, 2H). MS (CI) M/z: 514.2 (NT), 515.2 (30), 516.1 (70), 517.2 (20).

reactant | tert-Butyl {4-[(2R,3R)-1-(4-chlorophenyl)-3-({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetate | 2.57 mmol, 1.69 g | ClC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC1(OCC(CO1)(C)C)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C34H37Cl2NO6S
solvent | formic acid | 25 ml | C(=O)O | CH2O2
product | [4-((2R,3R)-1-(4-Chlorophenyl)-3-{[2-(4-chlorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid | 1.08 g, 81% | ClC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)O)C=C1 | C25H19Cl2NO5S
